US08685974B2
To a suspension of 1-(5-chloro-2-thienyl)-2-(2-chloropyridin-4-yl)ethanone (15.8 mmol) in 10 mL N,N-dimethylformamide, was added N,N-dimethylformamide dimethyl acetal (53.7 mmol). The mixture was refluxed for 2 h and then allowed to cool to room temperature. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate and the combined organic extracts were dried over MgSO4 filtered and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate:heptane 6:4 to 1:0) to afford 3.3 g (60% yield) of 1-(5-chloro-2-thienyl)-3-(dimethylamino)-2-(2-chloropyridin-4-yl)prop-2-en-1-one.

reactant | 1-(5-chloro-2-thienyl)-2-(2-chloropyridin-4-yl)ethanone | 15.8 mmol | ClC1=CC=C(S1)C(CC1=CC(=NC=C1)Cl)=O | C11H7Cl2NOS
reactant | N,N-dimethylformamide dimethyl acetal | 53.7 mmol | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(5-chloro-2-thienyl)-3-(dimethylamino)-2-(2-chloropyridin-4-yl)prop-2-en-1-one | 3.3 g, 60% yield | ClC1=CC=C(S1)C(C(=CN(C)C)C1=CC(=NC=C1)Cl)=O | C14H12Cl2N2OS
